US09056859B2
A solution of N-(2,3-dihydro-1H-inden-5-yl)acetamide (50 g, 0.29 mol) in 150 mL of acetic acid and 40 mL of actic anhydride was added a solution of chromium trioxide in a mixed solution (30 mL of water and 140 mL of acetic acid) dropwise at 10° C. by external cooling. After stirring overnight, the solution was poured into 2 L of ice water under vigorously stirring. The resulting solid was filtered, washed with cooled EtOH to give N-(1-oxo-2,3-dihydro-1H-inden-5-yl)acetamide. 1H-NMR (300 MHz, CDCl3) δ ppm 7.90 (s, 1H), 7.66˜7.70 (m, 2H), 7.22˜7.25 (m, 1H), 3.09˜3.13 (m, 2H), 2.66˜2.70 (m, 2H), 2.22 (s, 3H);

reactant | N-(2,3-dihydro-1H-inden-5-yl)acetamide | 0.29 mol, 50 g | C1CCC2=CC(=CC=C12)NC(C)=O | C11H13NO
reactant | water | 30 mL | O | H2O
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
solvent | actic anhydride | 40 mL | C(C)(=O)OC(C)=O | C4H6O3
catalyst | chromium trioxide | [O-2].[O-2].[O-2].[Cr+6]
solvent | acetic acid | 140 mL | C(C)(=O)O | C2H4O2
product | N-(1-oxo-2,3-dihydro-1H-inden-5-yl)acetamide | O=C1CCC2=CC(=CC=C12)NC(C)=O | C11H11NO2
